US08258158B2
(i) Preparation of Starting Material, (rac)-ethyl-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amine
This material was prepared from (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine by, first a standard acetylation reaction (acetic anhydride, DMAP as base) followed by reduction with LiAlH4 using standard literature procedures.

reactant | (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine | FC(C(OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (rac)-ethyl-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amine | C(C)NC1=CC=C(C=C1)OC(C(F)(F)F)C | C11H14F3NO
